US04446323
5-(2,6-dimethoxybenzoyl)-1,2,3,3a,4,5-hexahydropyrrolo[1,2-a]quinoxaline
To a stirred solution of the 1,2,3,3a,4,5-hexahydropyrrolo[1,2-a]quinoxaline 1.7 g. (0.009 mole) and 4 ml. of dry triethylamine in 50 ml. of dry acetone was added 2.5 g. (0.01 mole) of 2,6-dimethoxybenzoyl chloride. The reaction mixture was stirred for three hours and filtered, and the acetone was evaporated under vacuo. The residue was washed with water, dried and recrystallized from aqueous ethanol to afford 2.4 g. (79% yield) of the title compound, m.p. 140°-142° C.

reactant | 1,2,3,3a,4,5-hexahydropyrrolo[1,2-a]quinoxaline | 1.7 g | C1CCC2N1C1=CC=CC=C1NC2 | C11H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethoxybenzoyl chloride | 0.01 mole | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | acetone | CC(=O)C | C3H6O
product | 5-(2,6-dimethoxybenzoyl)-1,2,3,3a,4,5-hexahydropyrrolo[1,2-a]quinoxaline | 79% yield | COC1=C(C(=O)N2CC3N(C4=CC=CC=C24)CCC3)C(=CC=C1)OC | C20H22N2O3
